US08350044B2
Preparation of 3-cyclopropyl-1-[2-(5-fluoro-pyridin-3-yl)-4-methyl-thiazol-5-yl]-1-methyl-thiourea (Compound 519)
A solution of 2-(5-fluoropyridin-3-yl)-N,4-dimethylthiazol-5-amine (200 mg, 0.896 mmol) and isothiocyanatocyclopropane (266 mg, 2.69 mmol) in dioxane (10 mL) was heated at 100° C. for 24 h before the solvent was removed under reduced pressure. The residue was purified via silica gel chromatography (0 to 100% ethyl acetate/hexanes) to afford the title compound as a yellow solid (211 mg, 73%): mp 117-119° C.; 1H NMR (400 MHz, CDCl3) δ 8.89 (s, 1H), 8.56 (d, J=2.8 Hz, 1H), 7.96 (dt, J=9.2 Hz, 2.4 Hz, 1H), 5.91 (br s, 1H), 3.62 (s, 3H), 3.04-2.99 (m, 1H), 2.31 (s, 3H), 0.89-0.81 (m, 2H), 0.57-0.48 (m, 2H); ESIMS m/z 323 (M+1).

reactant | 2-(5-fluoropyridin-3-yl)-N,4-dimethylthiazol-5-amine | 0.896 mmol, 200 mg | FC=1C=C(C=NC1)C=1SC(=C(N1)C)NC | C10H10FN3S
reactant | isothiocyanatocyclopropane | 2.69 mmol, 266 mg | N(=C=S)C1CC1 | C4H5NS
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 3-cyclopropyl-1-[2-(5-fluoro-pyridin-3-yl)-4-methyl-thiazol-5-yl]-1-methyl-thiourea | 211 mg, 73% | C1(CC1)NC(N(C)C1=C(N=C(S1)C=1C=NC=C(C1)F)C)=S | C14H15FN4S2
